US05892116
N-benzyl-N,N,N-trioctadecylammonium bromide is prepared according to the following process. 0.10 g (0.13 mmol) trioctadecylamine, 0.30 ml (2.5 mmol) benzyl bromide (98%, Aldrich), and 3 ml THF (certified grade, Fisher) are placed into a 10 ml round-bottomed flask. The mixture is refluxed under a dry nitrogen atmosphere with stirring for 1 day. 80 mg (65%) white solid, mp 82°-83° C., is recovered after the solvent is evaporated, and the residue is recrystallized twice in a mix of hexane and ether. IR(KBr) 2916, 2851 (C-H stretching, vvs), 1473, 1386(C-H bending, w) cm-1. 1HNMR(CDCl3) δ 7.74-7.36 (aromatic H, m, 4H), 5.19-4.76 (CH2,s, 2H), 3.69-3.12(CH2, m, 6H), 2.05-0.67 (heptadecyl groups, m, 104H).

reactant | trioctadecylamine | 0.13 mmol, 0.10 g | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C54H111N
reactant | benzyl bromide | 2.5 mmol, 0.30 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-benzyl-N,N,N-trioctadecylammonium bromide | [Br-].C(C1=CC=CC=C1)[N+](CCCCCCCCCCCCCCCCCC)(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | InChI=1S/C61H118N.BrH/c1-4-7-10-13-16-19-22-25-28-31-34-37-40-43-46-52-57-62(60-61-55-50-49-51-56-61,58-53-47-44-41-38-35-32-29-26-23-20-17-14-11-8-5-2)59-54-48-45-42-39-36-33-30-27-24-21-18-15-12-9-6-3;/h49-51,55-56H,4-48,52-54,57-60H2,1-3H3;1H/q+1;/p-1
